**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  EMI Multilayer Power Suppression Bead
* Matchcode:              WE-MPSB
* Library Type:           spice
* Version:                rev
* Created/modified by:    Ella
* Date and Time:          6/18/2024
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2024 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************	
.subckt MPSB_0603_7427922808_8ohm 1 2
Rp 1 2 18
Cp 1 2 0.0001p
Rs 1 N3 0.0025
L1 N3 2 0.0175u
.ends MPSB_0603_7427922808_8ohm
*******
.subckt MPSB_0603_74279228111_110ohm 1 2
Rp 1 2 120
Cp 1 2 2p
Rs 1 N3 0.0145
L1 N3 2 0.32u
.ends MPSB_0603_74279228111_110ohm
*******
.subckt MPSB_0603_74279228260_26ohm 1 2
Rp 1 2 38
Cp 1 2 1.6p
Rs 1 N3 0.005
L1 N3 2 0.095u
.ends MPSB_0603_74279228260_26ohm
*******
.subckt MPSB_0603_74279228600_60ohm 1 2
Rp 1 2 100
Cp 1 2 1p
Rs 1 N3 0.0085
L1 N3 2 0.165u
.ends MPSB_0603_74279228600_60ohm
*******
.subckt MPSB_0805_74279220181_180ohm 1 2
Rp 1 2 190
Cp 1 2 2.6p
Rs 1 N3 0.0265
L1 N3 2 0.47u
.ends MPSB_0805_74279220181_180ohm
*******
.subckt MPSB_0805_74279220321_320ohm 1 2
Rp 1 2 355
Cp 1 2 1.5p
Rs 1 N3 0.0305
L1 N3 2 0.96u
.ends MPSB_0805_74279220321_320ohm
*******
.subckt MPSB_0805_74279220601_600ohm 1 2
Rp 1 2 545
Cp 1 2 1.3p
Rs 1 N3 0.043
L1 N3 2 1.8u
.ends MPSB_0805_74279220601_600ohm
*******
.subckt MPSB_0805_74279220800_80ohm 1 2
Rp 1 2 82
Cp 1 2 0.49p
Rs 1 N3 0.013
L1 N3 2 0.28u
.ends MPSB_0805_74279220800_80ohm
*******
.subckt MPSB_1206_74279221100_10ohm 1 2
Rp 1 2 35
Cp 1 2 0.0001p
Rs 1 N3 0.001
L1 N3 2 0.013u
.ends MPSB_1206_74279221100_10ohm
*******
.subckt MPSB_1206_74279221111_110ohm 1 2
Rp 1 2 125
Cp 1 2 3p
Rs 1 N3 0.0095
L1 N3 2 0.37u
.ends MPSB_1206_74279221111_110ohm
*******
.subckt MPSB_1206_74279221281_280ohm 1 2
Rp 1 2 290
Cp 1 2 2p
Rs 1 N3 0.022
L1 N3 2 0.82u
.ends MPSB_1206_74279221281_280ohm
*******
.subckt MPSB_1206_74279221601_600ohm 1 2
Rp 1 2 580
Cp 1 2 2.4p
Rs 1 N3 0.038
L1 N3 2 1.5u
.ends MPSB_1206_74279221601_600ohm
*******
.subckt MPSB_1612_74279223560_56ohm 1 2
Rp 1 2 74.35
Cp 1 2 0.08221p
Rs 1 N3 0.004
L1 N3 2 0.17317u
.ends MPSB_1612_74279223560_56ohm
*******
.subckt MPSB_1812_74279226101_100ohm 1 2
Rp 1 2 152
Cp 1 2 0.078p
Rs 1 N3 0.006
L1 N3 2 0.2888u
.ends MPSB_1812_74279226101_100ohm
*******
.subckt MPSB_2220_74279224101_100ohm 1 2
Rp 1 2 195.6
Cp 1 2 0.1993p
Rs 1 N3 0.005
L1 N3 2 0.4393u
.ends MPSB_2220_74279224101_100ohm
*******
.subckt MPSB_2220_74279224151_150ohm 1 2
Rp 1 2 277.6
Cp 1 2 0.2408p
Rs 1 N3 0.01
L1 N3 2 0.5421u
.ends MPSB_2220_74279224151_150ohm
*******
.subckt MPSB_2220_74279224171_170ohm 1 2
Rp 1 2 236.2
Cp 1 2 0.3058p
Rs 1 N3 0.015
L1 N3 2 0.5425u
.ends MPSB_2220_74279224171_170ohm
*******
.subckt MPSB_2220_74279224181_180ohm 1 2
Rp 1 2 301
Cp 1 2 1.8491p
Rs 1 N3 0.01
L1 N3 2 0.78627u
.ends MPSB_2220_74279224181_180ohm
*******
.subckt MPSB_2220_74279224251_250ohm 1 2
Rp 1 2 360.3
Cp 1 2 0.6067p
Rs 1 N3 0.012
L1 N3 2 0.9514u
.ends MPSB_2220_74279224251_250ohm
*******
.subckt MPSB_2220_74279224271_270ohm 1 2
Rp 1 2 435
Cp 1 2 1.895p
Rs 1 N3 0.02
L1 N3 2 1.47u
.ends MPSB_2220_74279224271_270ohm
*******
.subckt MPSB_2220_74279224401_400ohm 1 2
Rp 1 2 641.7
Cp 1 2 0.4706p
Rs 1 N3 0.02
L1 N3 2 1.595u
.ends MPSB_2220_74279224401_400ohm
*******
.subckt MPSB_2220_74279224551_550ohm 1 2
Rp 1 2 152.6
Cp 1 2 0.078p
Rs 1 N3 0.035
L1 N3 2 0.3469u
.ends MPSB_2220_74279224551_550ohm
*******
.subckt MPSB_3312_74279225101_100ohm 1 2
Rp 1 2 145.3
Cp 1 2 0.143p
Rs 1 N3 0.004
L1 N3 2 0.2851u
.ends MPSB_3312_74279225101_100ohm
*******
